US09169259B2
A mixture of 1-(7-bromo-3,4-dihydroisoquinolin-2(1H)-yl)ethanone (300 mg, 1.2 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (450 mg, 1.8 mmol), Pd(dppf)Cl2 (123 mg, 0.12 mmol), KOAc (348 mg, 3.6 mmol) and DMF (10 mL) was heated to 100° C. for 15 h under N2 atmosphere then concentrated in vacuo. Water (20 mL) was added and extracted with ethyl acetate (20 mL). The organic phase was washed with brine (3×10 mL) then dried with Na2SO4. The residue was concentrated and purified by chromatography (silica gel, 200-300 mesh, dichloromethane:MeOH=20:1) to give 1-(7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroisoquinolin-2(1H)-yl)ethanone (300 mg, crude) as black oil. LC-MS: [M+H]+, 301.2, [2M+H]+, 603.4, tR=1.569 min. This contained unidentified impurities and was used directly without further purification.

reactant | 1-(7-bromo-3,4-dihydroisoquinolin-2(1H)-yl)ethanone | 1.2 mmol, 300 mg | BrC1=CC=C2CCN(CC2=C1)C(C)=O | C11H12BrNO
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 1.8 mmol, 450 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 3.6 mmol, 348 mg | CC(=O)[O-].[K+]
catalyst | Pd(dppf)Cl2 | 0.12 mmol, 123 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-(7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-3,4-dihydroisoquinolin-2(1H)-yl)ethanone | 300 mg | CC1(OB(OC1(C)C)C1=CC=C2CCN(CC2=C1)C(C)=O)C | C17H24BNO3
